US06127391
(2E)-5-(tert-Butyloxycarbonylamino)-5-methylhex-2-enoic acid (0.30 g; 1.22 mmol) was dissolved in methylene chloride (10 ml). 1-Hydroxy-7-azabenzotiazole (0.17 g; 1.22 mmol) and N-(3-dimethylaminopropyl)-N'-ethylcarbodiimide hydrochloride (0.26 g; 1.34 mmol) were added. The reaction mixture was stirred for 15 min at room temperature. (2R)-N-Methyl-2-methylamino-N-((1R)-1-(methylcarbamoyl)-2-(thiophen-2-yl)ethyl)-3-(2-naphthyl)propionamide (0.50 g; 1.22 mmol) in methylene chloride (10 ml) was added to the reaction mixture. Diisopropylamine (0.21 ml; 1.22 mmol) was added. The reaction mixture was stirred 12 hours at room temperature. Water (10 ml) and methylene chloride (10 ml) were added. The phases were separated and the organic phase was washed with aqueous sodium hydrogensulfate (10%; 20 ml), saturated aqueous sodium hydrogencarbonate (20 ml), dried over magnesium sulfate and the solvent was removed in vacuo. The crude product was chromatographed on silica (2×20 cm) using ethyl acetate/methylene chloride (1:1) as eluent to afford 0.66 g of ((3E)-1,1-dimethyl-4-(N-methyl-N-((1R)-1-(N-methyl-N-((1R)-1-(methylcarbamoyl)-2-(thiophen-2-yl)ethyl)carbamoyl)-2-(2-naphthyl)ethyl)carbamoyl)but-3-enyl)carbamic acid tert butylester.

reactant | (2E)-5-(tert-Butyloxycarbonylamino)-5-methylhex-2-enoic acid | 1.22 mmol, 0.30 g | C(C)(C)(C)OC(=O)NC(C/C=C/C(=O)O)(C)C | C12H21NO4
reactant | 1-Hydroxy-7-azabenzotiazole | 1.22 mmol, 0.17 g | OS1C=NC2=C1N=CC=C2 | C6H6N2OS
reactant | N-(3-dimethylaminopropyl)-N'-ethylcarbodiimide hydrochloride | 1.34 mmol, 0.26 g | Cl.CN(CCCN=C=NCC)C
reactant | (2R)-N-Methyl-2-methylamino-N-((1R)-1-(methylcarbamoyl)-2-(thiophen-2-yl)ethyl)-3-(2-naphthyl)propionamide | 1.22 mmol, 0.50 g | CN(C([C@@H](CC1=CC2=CC=CC=C2C=C1)NC)=O)[C@H](CC=1SC=CC1)C(NC)=O | C23H27N3O2S
reactant | Diisopropylamine | 1.22 mmol, 0.21 ml | C(C)(C)NC(C)C | C6H15N
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | Water | 10 ml | O | H2O
product | ((3E)-1,1-dimethyl-4-(N-methyl-N-((1R)-1-(N-methyl-N-((1R)-1-(methylcarbamoyl)-2-(thiophen-2-yl)ethyl)carbamoyl)-2-(2-naphthyl)ethyl)carbamoyl)but-3-enyl)carbamic acid tert butylester | 0.66 g | C(C)(C)(C)OC(NC(C\C=C\C(N([C@H](CC1=CC2=CC=CC=C2C=C1)C(N([C@H](CC=1SC=CC1)C(NC)=O)C)=O)C)=O)(C)C)=O | C35H46N4O5S
